US05608056
Under nitrogen atmosphere to a solution of (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-(pyrimidin-5-ylmethyl)pyrrolidine (21.0 g) in dichloromethane (105 ml) were added triethylamine (16.1 g) firstly and methanesulfonyl chloride (13.7 g) secondly at 5° to 10° C. After the reaction mixture was stirred for an hour at the same temperature, dichloromethane (50 ml) and ice-water (150 ml) were added thereto, and then the solution was stirred vigorously for twenty minutes. The organic layer was separated and washed with 1N-hydrochloric acid (100 ml), 1N-sodium hydroxide (200 ml), and brine (200 ml). The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to give (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-(pyrimidin-5-ylmethyl) pyrrolidine (25.2 g) as an oil.

reactant | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-(pyrimidin-5-ylmethyl)pyrrolidine | 21.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CC=1C=NC=NC1 | C13H17N3O3
reactant | triethylamine | 16.1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 105 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-(pyrimidin-5-ylmethyl) pyrrolidine | 25.2 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CC=1C=NC=NC1 | C14H19N3O5S
